US07022725B2
To a solution of 3-[5-(5-chloro-2-thienyl)-4-isoxazolyl]propionic acid (2.20 g) in methanol (50 ml) was added conc. sulfuric acid (1 ml) and the mixture was heated under reflux for 1 hr. The reaction mixture was concentrated, iced water was poured on the residue and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and crystals (3.80 g, yield 86%) of methyl 3-[5-(5-chloro-2-thienyl)-4-isoxazolyl]propionate were obtained from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). The crystals were recrystallized from diethyl ether-isopropyl ether to give a colorless prism. melting point: 34–35° C.

reactant | 3-[5-(5-chloro-2-thienyl)-4-isoxazolyl]propionic acid | 2.20 g | ClC1=CC=C(S1)C1=C(C=NO1)CCC(=O)O | C10H8ClNO3S
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | methyl 3-[5-(5-chloro-2-thienyl)-4-isoxazolyl]propionate | 3.80 g, yield 86% | ClC1=CC=C(S1)C1=C(C=NO1)CCC(=O)OC | C11H10ClNO3S
